US04543214
In an apparatus as described in Example 1, 1265 parts pf 1-nitroanthraquinone are melted by heating to 240° C. and then elemental bromine is pumped in, with efficient stirring, at 245°-250° C. The rate of addition is so chosen that gentle bromine reflux is constantly mantained in the reflux condenser. After about 624 parts of bromine have been added over about 10 hours, no more bromine is taken up by the reaction mixture and the presence of 1-nitroanthraquinone can no longer be detected in a thin-layer chromatogram. The mixture is cooled to 200° C. and the melt is discharged into 1200 parts of efficiently stirred chlorobenzene. The resultant suspension is cooled to 20° C. and filtered. The filter cake is washed with chlorobenzene and the crystals are dried in vacuo at 120° C., affording 1350 parts of 1-bromoanthraquinone in 99-99.5% purity. The yield, based on 1-nitroanthraquinone, is 96%.

reactant | 1-nitroanthraquinone | [N+](=O)([O-])C1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H7NO4
reactant | bromine | BrBr | Br2
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 1-bromoanthraquinone | BrC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H7BrO2
